US05925667
1-ethyl-2-(2-geranyloxy-3-methoxybenzoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 2-geranyloxy-3-methoxybenzoic acid (1.52 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.7 ml), thereby yielding 1.84 g (89%) of the aimed compound. 1H-NMR (CDC3)δ: 8.38(1H, bs), 7.70(1H, dd, J=2.0 Hz, 7.8 Hz ), 7.12(11, dt, J=2.0 Hz, 7.8 Hz ), 7.00(7H, d, J=8.3 Hz), 5.53(1H, t, J=7.3 Hz), 5.07-5.02(1H, m,), 4.64(1H, d, J=7.3 Hz), 3.91(3H, s), 3.28-3.13(1H, m), 2.95-2.81(1H, m), 2.16-2.54(1H, m), 2.33-2.22(1H, m), 2.20-2.00(4H, m), 1.98-1.86(1H, m), 1.74(3H, s), 1.71(3H, s), 1.67(3H, s), 1.12(3H, t, J=7.3 Hz).

reactant | 2-geranyloxy-3-methoxybenzoic acid | 1.52 g | C(\C=C(/C)\CCC=C(C)C)OC1=C(C(=O)O)C=CC=C1OC | C18H24O4
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.7 ml | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(2-geranyloxy-3-methoxybenzoylaminomethyl)pyrrolidine | 1.84 g, 89% | C(C)N1C(CCC1)CNC(C1=C(C(=CC=C1)OC)OC\C=C(/C)\CCC=C(C)C)=O | C25H38N2O3
